US08207370B2
Production of ethyl 2-octadecanoylamino-3-oxooctadecanoate
A methylene chloride solution (100 ml) of N-octadecanoylglycine ethyl ester (3.70 g, 10 mmol) and N-methylimidazole (985.4 mg, 12 mmol) was cooled to −45° C., and a methylene chloride solution (10 ml) of palmitoyl chloride (2.76 mg, 9.74 mmol) was added thereto in nitrogen atmosphere. After the mixture was stirred for 20 minutes at the same temperature, a methylene chloride solution (10 ml) of titanium tetrachloride (6.81 mg, 35 mmol) and a methylene chloride solution (10 ml) of tributylamine (7.42 g, 40 mmol) were added thereto. The resulting mixture was stirred for 2 hours at −45° C. After 100 ml of water was added thereto and the mixture was heated to room temperature, the organic layer was separated. Further, the water layer was extracted twice with methylene chloride (100 ml), and the organic layers were combined and dried with magnesium sulfate. After the solvent was removed in reduced pressure, the obtained crude product was purified by silica gel chromatography (Kieselgel 60 manufactured by Merck, hexane:ethyl acetate=4:1) to obtain the title compound (3.20 mg, yield: 54%).

reactant | N-octadecanoylglycine ethyl ester | 10 mmol, 3.70 g | C(C)OC(CNC(CCCCCCCCCCCCCCCCC)=O)=O | C22H43NO3
reactant | N-methylimidazole | 12 mmol, 985.4 mg | CN1C=NC=C1 | C4H6N2
reactant | palmitoyl chloride | 9.74 mmol, 2.76 mg | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | tributylamine | 40 mmol, 7.42 g | C(CCC)N(CCCC)CCCC | C12H27N
catalyst | titanium tetrachloride | 35 mmol, 6.81 mg | [Ti](Cl)(Cl)(Cl)Cl
solvent | water | 100 ml | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-octadecanoylamino-3-oxooctadecanoate | 3.20 mg, yield: 54% | C(CCCCCCCCCCCCCCCCC)(=O)NC(C(=O)OCC)C(CCCCCCCCCCCCCCC)=O | C38H73NO4
